US04658061
9-Carbamoyl-9-(3-oxobutyl)fluorene
To a stirred warm (45° C.) solution of 62.7 g. (0.3 mole) of 9-carbamoylfluorene in 700 ml. of tetrahydrofuran were added in one portion 30 ml. of a 40% aqueous solution of benzyltrimethylammonium hydroxide. The reaction mixture was stirred at 45° C. for fifteen minutes, and was then diluted by dropwise addition of 24.5 g. (0.35 mole) of methyl vinyl ketone. The reaction mixture was heated at reflux for three hours following complete addition, and then it was cooled to about 30° C. and added to 500 g. of ice. The aqueous reaction mixture was extracted several times with 50% diethyl ether in ethyl acetate, and the extracts were combined, washed with water, with 10% aqueous sodium hydroxide, again with water and then dried. Removal of the solvent by evaporation under reduced pressure afforded a solid which, following crystallization from ethyl acetate, was identified as 46.1 g. of 9-carbamoyl-9-(3-oxobutyl)fluorene. m.p. 125°-128° C.

reactant | 9-carbamoylfluorene | 0.3 mole | C(N)(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | methyl vinyl ketone | 0.35 mole | C(=C)C(=O)C | C4H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-Carbamoyl-9-(3-oxobutyl)fluorene | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCC(C)=O | C18H17NO2
